US08283353B2
4-{trans-4-[(5-methyl-1,3,4-oxadiazol-2-yl)methoxy]cyclohexyl}-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (0.45 g), sodium hydrogen carbonate (0.72 g) and dimethyl sulfoxide (5 mL) was stirred at 40° C. for 30 min, 4′-[(4-{trans-4-[(5-methyl-1,3,4-oxadiazol-2-yl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (0.24 g) was added, and the mixture was stirred at 90° C. for 15 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by silica gel column chromatography was dissolved in tetrahydrofuran (3 mL). N,N′-Carbonyldiimidazole (0.084 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.078 mL) were added, and the mixture was stirred at room temperature for 120 hr. The reaction mixture was diluted with ethyl acetate, adjusted to pH 4 with 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.041 g, 15%).

reactant | hydroxylammonium chloride | 0.45 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 0.72 g | C(O)([O-])=O.[Na+]
reactant | 4′-[(4-{trans-4-[(5-methyl-1,3,4-oxadiazol-2-yl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.24 g | CC1=NN=C(O1)CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C32H33N7O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.078 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 4-{trans-4-[(5-methyl-1,3,4-oxadiazol-2-yl)methoxy]cyclohexyl}-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.041 g, 15% | CC1=NN=C(O1)CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2 | C33H34N8O5
